US08981111B2
To a solution of 2-(6-{[({(3-bromo-4-methoxyphenyl)[3-chloro-5-(trifluoromethyl)pyridin-2-yl]methylene}amino)oxy]methyl}pyridin-2-yl)-1H-isoindole-1,3(2H)-dione (7.00 g, 9.75 mmol) in tetrahydrofuran (150 mL) was added hydrazine hydrate (2.37 mL, 48.7 mmol) dropwise. After stirring overnight at room temperature, the reaction mixture was filtered, and the filtrate concentrated in vacuo. Purification on silica gel afforded 6-{[({(3-bromo-4-methoxyphenyl)[3-chloro-5-(trifluoromethyl)pyridin-2-yl]methylene}amino)oxy]methyl}pyridin-2-amine as an oil [4.00 g, yield 75%; HPLC/MS: m/z=516 (M+H); log P(HCOOH)=2.54].

reactant | 2-(6-{[({(3-bromo-4-methoxyphenyl)[3-chloro-5-(trifluoromethyl)pyridin-2-yl]methylene}amino)oxy]methyl}pyridin-2-yl)-1H-isoindole-1,3(2H)-dione | 9.75 mmol, 7.00 g | BrC=1C=C(C=CC1OC)C(C1=NC=C(C=C1Cl)C(F)(F)F)=NOCC1=CC=CC(=N1)N1C(C2=CC=CC=C2C1=O)=O | C28H17BrClF3N4O4
reactant | hydrazine hydrate | 48.7 mmol, 2.37 mL | O.NN
solvent | tetrahydrofuran | 150 mL | O1CCCC1 | C4H8O
product | 6-{[({(3-bromo-4-methoxyphenyl)[3-chloro-5-(trifluoromethyl)pyridin-2-yl]methylene}amino)oxy]methyl}pyridin-2-amine | yield 75% | BrC=1C=C(C=CC1OC)C(C1=NC=C(C=C1Cl)C(F)(F)F)=NOCC1=CC=CC(=N1)N | C20H15BrClF3N4O2
